US06887896B1
1-(4-Bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)2-methyl-propan-1-one (Compound A-111)
To a solution of 1-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-ethanone (Compound A-109, 512 mg, 1.4 mmol) in THF (10 mL) at −78° C. was added lithium diisopropylamide (1.5 M in cyclohexane, 2.0 mL, 3.0 mmol). The cold bath was removed and the mixture was stirred for 3 h. The mixture was cooled to −78° C. again and methyl iodide (0.52 mL, 8.34 mmol) was added. The mixture was stirred at room temperature for 16 h then quenched with ammonium chloride (sat), extracted with diethyl ether. The combined ethereal layers were washed with water, brine, dried (Na2SO4), filtered and concentrated in vacuo. The crude residue was purified by flash chromatography (silica gel, 2% ethyl acetate in hexanes) followed by HPLC (Waters-Nova Pak column, 2% ethyl acetate in hexanes) to give the title compound.

reactant | 1-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-ethanone | 1.4 mmol, 512 mg | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)C(C)=O)OCC | C19H25BrO2
reactant | lithium diisopropylamide | 3.0 mmol, 1.5 M, 2.0 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | 8.34 mmol, 0.52 mL | CI | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(4-Bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)2-methyl-propan-1-one | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)C(C(C)C)=O)OCC | C21H29BrO2
